US05550130
The mixture of (E)-1-[3-[[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butenyl]oxy]-4-benzyloxyphenyl]ethanone (5.5 g, 10.7 mmol), acetic acid (50 ml), and hydrochloric acid (6 ml) was heated at 75° C. for 2 hours. At the end of reaction, the solvent was reduced to about 20 ml on a rotary evaporator. The solution was poured into ice water (350 ml) and extracted with dichloromethane (3×250 ml). The dichloromethane solution was washed with brine and dried over Na2SO4. A solid formed on concentration of the solvent. This was collected by filtration (3.4 g). Recrystallization from hot methanol (40 ml) gave 1.82 g of (E)-1-[3-[[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-butenyl]oxy]-4-hydroxyphenyl]ethanone hydrochloride as white crystals, 37.5%, m.p.=208°-210° C.

reactant | (E)-1-[3-[[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butenyl]oxy]-4-benzyloxyphenyl]ethanone | 10.7 mmol, 5.5 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC/C=C/OC=2C=C(C=CC2OCC2=CC=CC=C2)C(C)=O)C=C1 | C31H31FN2O4
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (E)-1-[3-[[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-butenyl]oxy]-4-hydroxyphenyl]ethanone hydrochloride | 1.82 g | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)C/C=C/COC=2C=C(C=CC2O)C(C)=O)C=C1 | InChI=1S/C24H25FN2O4.ClH/c1-16(28)18-4-7-21(29)23(14-18)30-13-3-2-10-27-11-8-17(9-12-27)24-20-6-5-19(25)15-22(20)31-26-24;/h2-7,14-15,17,29H,8-13H2,1H3;1H/b3-2+;
